US04988828
p-Nitrophenyl 2-(furfurylthio)acetate (6.5 g) was dissolved in 200 ml of tetrahydrofuran, and under ice cooling, 75 ml of a tetrahydrofuran solution of 4 g of 3-(3-hydroxymethylphenoxy)propylamine was added dropwise to the solution. One hour later, the temperature was returned to room temperature, and the mixture was stirred for 18 hours. The solvent was concentrated, and the concentrate was taken into ethyl acetate, washed with a 1N aqueous solution of sodium hydroxide and water, and dried. The solvent was evaporated to give 7.02 g (94.9%) of N-3-(3-hydroxymethylphenoxy)propyl]-2-(furfurylthio)acetamide.

reactant | p-Nitrophenyl 2-(furfurylthio)acetate | 6.5 g | C(C1=CC=CO1)SCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO5S
reactant | 3-(3-hydroxymethylphenoxy)propylamine | 4 g | OCC=1C=C(OCCCN)C=CC1 | C10H15NO2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 2-(furfurylthio)acetamide | C(C1=CC=CO1)SCC(=O)N | C7H9NO2S
